US09108944B2
Sodium cyanide (2.5 g, 50.8 mmol) was added to a mixture of 4-amino-2-fluorophenol (4.3 g, 33.9 mmol) and cyclobutanone (3.8 mL, 50.8 mmol) in acetic acid (99%, 30 mL) hooked up to a NaOH scrubber and the resulting mixture was stirred at room temperature for 6 h. The mixture was poured in water and the aqueous layer was extracted with EtOAc (3×). The organics were combined, washed with a saturated solution of sodium bicarbonate (4×), dried over sodium sulfate, and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0 to 50% EtOAc/hexanes to afford 4.8 g of 1-((3-fluoro-4-hydroxyphenyl)amino)cyclobutanecarbonitrile as a beige solid. 1H NMR (300 MHz, DMSO-d6) δ 8.98 (s, 1H), 6.80 (t, 1H), 6.36 (dd, 1H), 6.28 (m, 2H), 2.71-2.62 (m, 2H), 2.35-2.25 (m, 2H), 2.12-2.00 (m, 2H).

reactant | Sodium cyanide | 50.8 mmol, 2.5 g | [C-]#N.[Na+]
reactant | 4-amino-2-fluorophenol | 33.9 mmol, 4.3 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | cyclobutanone | 50.8 mmol, 3.8 mL | C1(CCC1)=O | C4H6O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-((3-fluoro-4-hydroxyphenyl)amino)cyclobutanecarbonitrile | 4.8 g | FC=1C=C(C=CC1O)NC1(CCC1)C#N | C11H11FN2O
